US07750012B2
2-[4-(4-Phenoxy-phenyl)-piperazin-1-yl]-acetic acid methyl ester:
The title compound (135 mg, 41%) was prepared from 1-(4-Phenoxy-phenyl)-piperazine hydrochloride. (165 mg, 0.9 mmol) and methyl 2-bromo-acetate (140 mg, 0.92 mmol) by the procedure described in step 3 of Example 6 MS (ESI) m/z 327 (M+H); 1H NMR (400 MHz, CDCl3) δ 2.76 (b, 2.67), 3.21 (t, J=3.2 Hz, 4H), 3.29 (s, 2H), 3.75 (s, 3H), 6.92-7.05 (m, 7H), 7.29 (m, 2H).

reactant | 1-(4-Phenoxy-phenyl)-piperazine hydrochloride | Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)N1CCNCC1
reactant | methyl 2-bromo-acetate | 0.92 mmol, 140 mg | BrCC(=O)OC | C3H5BrO2
product | 2-[4-(4-Phenoxy-phenyl)-piperazin-1-yl]-acetic acid methyl ester | 135 mg, 41% | COC(CN1CCN(CC1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C19H22N2O3
